US07615557B2
A stirred solution benzeneruthenium(II) chloride dimmer (1.55 g) and (1S, 2R)-(−)-cis-1-amino-2-indanol (1.85 g) in degassed isopropanol (500 ml) was heated at 80° C. for 20 minutes under argon, and then cooled to room temperature. The mixture was added to the solution of 8-amino-3,4-dihydro-1H-naphthalen-2-one (25.0 g) in isopropanol (700 ml) at room temperature followed by the prepared solution of potassium hydroxide (1.74 g) in 300 ml of isopropanol (pre-prepared at 45° C. to dissolve and then cooled to room temperature). After stirred at 45° C. for 30 minutes, the mixture was cooled to room temperature and was passed through silica gel pad and washed with ethylacetate. The filtrate was concentrated under reduced pressure, and the obtained solid was dissolved in dichloromethane and treated with activated charcoal for 10 minutes. After filtered through a silica gel pad, the mixture was concentrated under reduced pressure. The obtained product was recrystallized from dichloromethane to afford red crystal of (R)-8-amino-1,2,3,4-tetrahydro-naphthalen-2-ol (14 g, 56% yield).

reactant | (1S, 2R)-(−)-cis-1-amino-2-indanol | 1.85 g | C1[C@H]([C@H](C2=CC=CC=C21)N)O | C9H11NO
reactant | 8-amino-3,4-dihydro-1H-naphthalen-2-one | 25.0 g | NC=1C=CC=C2CCC(CC12)=O | C10H11NO
reactant | potassium hydroxide | 1.74 g | [OH-].[K+]
solvent | isopropanol | 500 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 700 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 300 ml | C(C)(C)O | C3H8O
catalyst | benzeneruthenium(II) chloride | C1=CC=CC=C1.Cl[Ru]Cl
product | (R)-8-amino-1,2,3,4-tetrahydro-naphthalen-2-ol | 14 g, 56% yield | NC=1C=CC=C2CC[C@H](CC12)O | C10H13NO
